US06255494B1
Preparation of 2-benzylbenzimidazole
A 1 M solution of benzyl cyanide in anhydrous methanol was treated with hydrogen chloride gas at 0° C. for about thirty minutes. The mixture was stirred for two hours at 0° C. and then a 1 M solution of diaminobenzene was added and the resulting solution was stirred at 0° C. The progress of the reaction was monitored by thin layer chromatography. The reaction mixture was then poured into water. The unreacted nitrile was extracted with ethyl acetate. The aqueous layer was neutralized with 1 N sodium hydroxide. The organic fraction was extracted with ethyl acetate and condensed. The desired title product was recrystallized from methanol/water.

reactant | benzyl cyanide | C(C1=CC=CC=C1)C#N | C8H7N
reactant | hydrogen chloride | Cl | ClH
reactant | diaminobenzene | NC1=C(C=CC=C1)N | C6H8N2
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 2-benzylbenzimidazole | C(C1=CC=CC=C1)C=1NC2=C(N1)C=CC=C2 | C14H12N2
